data/rdb19/train.csv
rxn,smiles,ea
57,[C:12]([C:13]([O:14][C:15](=[O:16])[C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:13]([O:14][C:15](=[O:16])[C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23].[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:12]([H:19])([H:20])[H:21],85.04211304610362
1191,[C:14]([C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15](=[C:16]([H:23])[H:24])[C:17](=[O:18])[O:19][H:25].[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[O:7][H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:14]([H:20])([H:21])[H:22],86.37387647520518
4642,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([O:18][C:19]=[C:20]([H:25])[H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[O:7][H:16])[H:24])([H:11])[H:12])([H:8])([H:9])[H:10],33.55821196147008
4107,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11].[H:13][C:26]1([H:40])[C:25]([H:39])=[C:24]([C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([C:23]([H:36])([H:37])[H:38])[H:35])[C:29]([H:43])=[C:28]([H:42])[C:27]1[H:41],40.895464937610086
2504,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:1]([C:2]([O:3][C:24]([H:25])([H:26])[H:27])([H:13])[H:14])([H:10])([H:11])[H:12].[C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15],60.94812314090086
1076,[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:15]([C:14]([H:22])[H:23])([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],18.049015284574125
4339,[C:16]([C:17]([C:18]([H:19])[H:20])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:18]([C:17]([C:16]([H:25])([H:26])[H:27])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:19])[H:20].[O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],45.86052098934306
4887,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:18](=[O:19])[H:24].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[N:17]([C:16](=[C:15]([H:20])[H:21])[H:22])[H:23])[H:11])([H:8])([H:9])[H:10],40.930835588194896
4406,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:17](=[O:18])=[O:19].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]([O:5][H:28])([O:6][H:12])[C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])[C:16]([H:25])([H:26])[H:27])([H:7])([H:8])[H:9],48.9801424263278
882,[C:19]([C:20]([C:21]([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38])([H:32])[H:33])([H:29])([H:30])[H:31].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])([H:13])[C:21]([C:20]([C:19]([H:29])([H:30])[H:31])([H:32])[H:33])([H:22])[c:23]1[c:24]([H:34])[c:25]([H:35])[c:26]([H:36])[c:27]([H:37])[c:28]1[H:38])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])[H:16],68.10981008043746
643,[C:19]([O:20][O:21])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[N:7]([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][O:21][O:20][C:19]([H:22])([H:23])[H:24],23.588172371382825
